US07030150B2
Synthesis of 3-aminomethylbenzimidazole-4 nitro benzoic acid methylester
To a flask under nitrogen atmosphere was charged 500 ml of NMP and 3-fluoro-4 nitro benzoic acid methylester (15.64 g, 78.5 mmol, 1 eq) followed by aminomethyl-benzimidazole dihydrochloride (20.16 g, 91.6 mmol, 1.2 eq). To this, Diispropyl ethylamine (55 ml, 316 mmol, 4 eq) was charged and stirred for 16 hours. The reaction was then poured into 1200 ml of ice water resulting in a yellow/orange solid. The solid was filtered and resuspended in 300 ml of cold water, stirred for 1 hour, filtered and dried to constant weight. Yield 85%, 18.8 g. TLC elution solvent system 5% methanol/95% dichloromethane, Rf=0.6.

reactant | 3-fluoro-4 nitro benzoic acid methylester | 78.5 mmol, 15.64 g, 1 eq | COC(C1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C8H6FNO4
reactant | aminomethyl-benzimidazole dihydrochloride | 91.6 mmol, 20.16 g, 1.2 eq | Cl.Cl.NCC=1NC2=C(N1)C=CC=C2
reactant | ethylamine | 316 mmol, 55 ml, 4 eq | C(C)N | C2H7N
solvent | NMP | 500 ml | CN1CCCC1=O | C5H9NO
product | 3-aminomethylbenzimidazole-4 nitro benzoic acid methylester | Yield 85% | COC(C1=CC=C(C=C1)[N+](=O)[O-])=O.NCN1C=NC2=C1C=CC=C2 | InChI=1S/C8H9N3.C8H7NO4/c9-5-11-6-10-7-3-1-2-4-8(7)11;1-13-8(10)6-2-4-7(5-3-6)9(11)12/h1-4,6H,5,9H2;2-5H,1H3
